US09382243B2
3-(4-bromo-3-fluorophenoxy)oxetane
4-bromo-3-fluorophenol (1.185 g, 6.20 mmol), oxetan-3-yl 4-methyl-benzenesulfonate (1.77 g, 7.75 mmol) and cesium carbonate (5.05 g, 15.51 mmol) were dissolved in DMSO (7.75 mL) and heated to 60° C. overnight. The reaction mixture was diluted with water and EtOAc. The aqueous phase was extracted with EtOAc (×2) and the combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The resulting residue was purified by column chromatography on a Biotage™ 50 g column by eluting with 2% to 50% EtOAc:Hexane to give the desired product. 1H NMR δ (ppm) 7.39 (t, 1H), 6.50 (d, 1H), 6.40 (d, 1H), 5.17-5.12 (m, 1H), 4.97 (t, 2H), 4.73 (t, 2H).

reactant | 4-bromo-3-fluorophenol | 6.20 mmol, 1.185 g | BrC1=C(C=C(C=C1)O)F | C6H4BrFO
reactant | oxetan-3-yl 4-methyl-benzenesulfonate | 7.75 mmol, 1.77 g | CC1=CC=C(C=C1)S(=O)(=O)OC1COC1 | C10H12O4S
reactant | cesium carbonate | 15.51 mmol, 5.05 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 7.75 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(4-bromo-3-fluorophenoxy)oxetane | BrC1=C(C=C(OC2COC2)C=C1)F | C9H8BrFO2
